US04696763
A solution of 6.18 parts of dicyclohexylcarbodiimide in 30 parts by volume of dimethoxyethane is added dropwise, over 1.5 hours, to a stirred solution of 8.49 parts of benzothiazol-2-ylthio succinic acid prepared as in Example 1A in dimethoxyethane (70 parts by volume). The reaction is exothermic and the temperature is maintained at 25°-27° with cooling. When the addition is complete, stirring is continued for a further 1.5 hours and the precipitated dicyclohexylurea is removed by filtration. The filtrate is evaporated in vacuo and the residual solid is recrystallised from a mixture of dichloromethane and cyclohexane to give benzothiazol-2-ylthio succinic anhydride m.p. 129°-129° (with decomposition).

reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | benzothiazol-2-ylthio succinic acid | S1C(=NC2=C1C=CC=C2)C(C(=S)O)CC(=O)O | C11H9NO3S2
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | benzothiazol-2-ylthio succinic anhydride | S1C(=NC2=C1C=CC=C2)C2C(=S)OC(C2)=O | C11H7NO2S2
